US04480100
[2-[[3-(Methylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone
[3-[(2-Benzoylphenyl)(3-nitro-2-pyridinyl)amino]propyl]methyl carbamic acid 1,1-dimethylethyl ester is hydrolyzed in an aqueous solution of hydrochloric acid to give the title compound.

reactant | [3-[(2-Benzoylphenyl)(3-nitro-2-pyridinyl)amino]propyl]methyl carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCCN(C1=NC=CC=C1[N+](=O)[O-])C1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C27H30N4O5
reactant | hydrochloric acid | Cl | ClH
product | [2-[[3-(Methylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone | CNCCCN(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=NC=CC=C1[N+](=O)[O-] | C22H22N4O3
